US04479901
N-Neopentyl-p-toluenesulfonamide (2.41 g, 10 mmole) was dissolved in 1:1 fluorotrichloromethanechloroform (450 mL) and the solution was cooled to -78° under nitrogen. Fluorine (approximately 15 mmole, 5% in nitrogen) was bubbled into the solution through a vibrating mixer shaft for 2 h. The cold reaction mixture was poured into aqueous 10% potassium bicarbonate solution (200 mL) and the layers were separated. The organic phase was washed with aqueous 10% sodium thiosulfate (200 mL) and saturated sodium chloride (200 mL) solutions and dried over anhydrous magnesium sulfate. Filtration and removal of solvent under reduced pressure left a solid. Purification of the solid by flash column chromatography (silica, 25% methylene chloride in hexane) yielded N-fluoro-N-neopentyl-p-toluene-sulfonamide as a solid (1.47 g, 57% yield). This material, and additional samples prepared by this procedure, were analyzed and provided the following results: mp 58°-62.5°; IR (KBr) γmax (cm-1) 3440 (b), 2980 (w), 1370 (m), 1175 (s), 734 (m); 1H NMR (80 MHz, CDCl3) δ1.00 (s, 9H, C(CH3)3), 2.50 (s, 3H, CH3), 3.00 (d, J=44 Hz, 2H, NCH2), 7.40 (d, J=8 Hz, 2H, aromatic), 7.83 (d, J=8 Hz, 2H, aromatic); 19F NMR (94.1 MHz, CDCl3) -36.88 (t, J=44 Hz, 1F, NF); HRMS calcd. for C12H18NO2SF: 259.1042; found: 259.1029.

reactant | N-Neopentyl-p-toluenesulfonamide | 10 mmole, 2.41 g | C(C(C)(C)C)NS(=O)(=O)C1=CC=C(C=C1)C | C12H19NO2S
reactant | Fluorine | approximately 15 mmole | FF | F2
solvent | potassium bicarbonate | 200 mL | C([O-])(O)=O.[K+]
product | N-fluoro-N-neopentyl-p-toluene-sulfonamide | 1.47 g, 57% yield | FN(S(=O)(=O)C1=CC=C(C=C1)C)CC(C)(C)C | C12H18FNO2S
